US04812164
using isopropyl 2-chloro-5-[2-chloro-6-oxo-4-pentafluoroethyl-1(6H)-pyrimidinyl]-4-fluorobenzoate and sodium isopropylate in isopropanol there is obtained isopropyl 2-chloro-4-fluoro-5-[2-isopropoxy-6 -oxo-4-pentafluoroethyl-1(6H)-pyrimidinyl]-benzoate, 1H-NMR (CDCl3, 400 MHz): 7 83 ppm (d,1H), 7.39 ppm (d,1H), 6.64 ppm (s,1H), 5.34 ppm (m,1H), 5.27 ppm (m,1H), 1.39 ppm (d,3H), 1.38 ppm (d,3H), 1.28 ppm (d,3H), 1.27 ppm (d,3H);

reactant | isopropyl 2-chloro-5-[2-chloro-6-oxo-4-pentafluoroethyl-1(6H)-pyrimidinyl]-4-fluorobenzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(=NC(=CC1=O)C(C(F)(F)F)(F)F)Cl | C16H10Cl2F6N2O3
reactant | sodium | [Na] | Na
solvent | isopropanol | C(C)(C)O | C3H8O
product | isopropyl 2-chloro-4-fluoro-5-[2-isopropoxy-6 -oxo-4-pentafluoroethyl-1(6H)-pyrimidinyl]-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(=NC(=CC1=O)C(C(F)(F)F)(F)F)OC(C)C | C19H17ClF6N2O4
